US05453427
Methyl (4-hydroxy-6-methyl-2-methylmercapto-5-pyrimidinyl)-acetate (4.0 g, 17 mmol) is heated in a mixture of phosphoroxychloride (40 ml) and N,N-diethylaniline (5.5 ml) for 2 hours at 100° C. The excess phosphoroxychloride was removed by evaporation under vacuum and the residue poured into ice-water. Extraction with ethyl acetate, drying and filtration over silicagel gives methyl (4-chloro-6-methyl-2-methylmercapto-5-pyrimidinyl)-acetate as a crystalline solid (3.1 g, 72%), having a m.p. of 88° C.

reactant | Methyl (4-hydroxy-6-methyl-2-methylmercapto-5-pyrimidinyl)-acetate | 17 mmol, 4.0 g | OC1=NC(=NC(=C1CC(=O)OC)C)SC | C9H12N2O3S
reactant | phosphoroxychloride | 40 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | N,N-diethylaniline | 5.5 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
product | methyl (4-chloro-6-methyl-2-methylmercapto-5-pyrimidinyl)-acetate | 3.1 g, 72% | ClC1=NC(=NC(=C1CC(=O)OC)C)SC | C9H11ClN2O2S
